US07129243B2
tert-Butyl 4-(2-pyridylthio)-1-piperidinecarboxylate
To a slurry of sodium hydride (about 60% oil suspension, 397 mg) in dimethoxyethane (4 ml) was added a solution of 2-pyridinethiol (1.05 g) in dimethoxyethane (6 ml) at 0° C., and the mixture was stirred at room temperature for 1 hour. To the mixture was added tert-butyl 4-bromo-1-piperidinecarboxylate (2.74 g), and the mixture was refluxed for 2 hours. After cooling, the resulting suspension was diluted with ether and filtered through a pad of Celite. The filtrate was washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluent; 14% ethyl acetate in n-hexane) to give the title compound (2.2 g) as a white solid.

reactant | sodium hydride | 397 mg | [H-].[Na+]
reactant | 2-pyridinethiol | 1.05 g | N1=C(C=CC=C1)S | C5H5NS
reactant | tert-butyl 4-bromo-1-piperidinecarboxylate | 2.74 g | BrC1CCN(CC1)C(=O)OC(C)(C)C | C10H18BrNO2
solvent | dimethoxyethane | 4 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 6 ml | C(OC)COC | C4H10O2
solvent | ether | CCOCC | C4H10O
product | tert-Butyl 4-(2-pyridylthio)-1-piperidinecarboxylate | 2.2 g | N1=C(C=CC=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O2S
